US07994164B2
1-Bromo-3-fluorobenzyl alcohol
To 1-bromo-3-fluorobenzaldehyde (1.60 kg, 7.91 mol) in methanol (14 L) at 0° C. add sodium borohydride (284 g, 7.93 mol) in portions over 30 min to control the exotherm and gas evolution. After 15 min, quench with water (500 mL) and concentrate to obtain a yellow oil. Dissolve the oil in ethyl acetate (6 L) and wash with water (3 L). Extract the aqueous layer with ethyl acetate (1 L). Wash the combined organic phases with brine (2 L), dry over sodium sulfate, filter, and concentrate to obtain the title compound as an orange oil (1614 g, 100%). 1H NMR (CDCl3) δ 7.40 (d, 1H), 7.18 (m, 1H), 7.07 (t, 1H), 4.86 (s, 2H).

reactant | 1-bromo-3-fluorobenzaldehyde | 7.91 mol, 1.60 kg | BrC1(C=O)CC(=CC=C1)F | C7H6BrFO
reactant | sodium borohydride | 7.93 mol, 284 g | [BH4-].[Na+]
solvent | methanol | 14 L | CO | CH4O
solvent | ethyl acetate | 6 L | C(C)(=O)OCC | C4H8O2
product | 1-Bromo-3-fluorobenzyl alcohol | 1614 g, 100% | BrC1(CO)CC(=CC=C1)F | C7H8BrFO
